US04619941
5-Chloro-N-[2-(1H-imidazol-1-yl)ethyl]-1H-indole-2-carboxamide
A mixture of 1.8 g of 5-chloroindole-2-carboxylic acid in 50 ml of tetrahydrofuran was treated with 1.5 g of 1,1'-carbonyldiimidazole and allowed to stand at room temperature for 4 hours. A solution of 1.15 g of 1H-imidazole-1-ethanamine in 25 ml of tetrahydrofuran was added and the reaction mixture was heated at reflux temperature for 3 hours, treated with 10 ml of water and again heated for one hour and then concentrated to remove the solvent. The residue was shaken with 5 ml of 1N sodium hydroxide and 300 ml of dichloromethane and the layers were separated. The organic layer was washed with water, dried over magnesium sulfate and concentrated to recover the desired compound, mp 167°-169° C.

reactant | 5-chloroindole-2-carboxylic acid | 1.8 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1,1'-carbonyldiimidazole | 1.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1H-imidazole-1-ethanamine | 1.15 g | N1(C=NC=C1)CCN | C5H9N3
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-Chloro-N-[2-(1H-imidazol-1-yl)ethyl]-1H-indole-2-carboxamide | ClC=1C=C2C=C(NC2=CC1)C(=O)NCCN1C=NC=C1 | C14H13ClN4O
